US07067517B2
Pyridine-2-carboxylic acid (6-methoxy-pyridin-3-yl)-amide dihydrochloride
5-Amino-2-methoxypyridine (4.40 g, 35.4 mmol), dissolved in a small amount of tetrahydrofuran, was added slowly to a stirred solution of pyridine-2-carbonyl chloride hydrochloride (7.12 g, 40.0 mmol) in tetrahydrofuran (75 mL). After stirring overnight at room temperature diethyl ether was added. The solids were isolated by suction, washed with diethyl ether and dried in a vacuum oven at 45° C., yielding the title compound (7.89 g, 75%).

reactant | 5-Amino-2-methoxypyridine | 35.4 mmol, 4.40 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | pyridine-2-carbonyl chloride hydrochloride | 40.0 mmol, 7.12 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | Pyridine-2-carboxylic acid (6-methoxy-pyridin-3-yl)-amide dihydrochloride | 7.89 g, 75% | Cl.Cl.COC1=CC=C(C=N1)NC(=O)C1=NC=CC=C1 | InChI=1S/C12H11N3O2.2ClH/c1-17-11-6-5-9(8-14-11)15-12(16)10-4-2-3-7-13-10;;/h2-8H,1H3,(H,15,16);2*1H
